US04367234
1,3-Difluorobenzene (25 g., 0.22 mole) was dissolved in 150 ml. of tetrahydrofuran and cooled to -50° C. Butyl lithium (99 ml. of 2.3 M in hexane, 0.228 mole) was added over 20 minutes, maintaining the temperature at -50° C. After 1.5 hours of stirring at the same temperature, N-methylformanilide (29.7 g., 0.22 mole) in 50 ml. of tetrahydrofuran was added over 20 minutes at -50° C. After an additional 1.5 hours of stirring at -50° C., the reaction mixture was poured slowly into 1 liter of cold 1 N sulfuric acid, and extracted with three portions of ether. The combined organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to an oil. The oil was distilled. Middle cuts were combined to yield 2,6-difluorobenzaldehyde (18.2 g., 58%; b.p. 72°-74°/12 mm.).

reactant | 1,3-Difluorobenzene | 0.22 mole, 25 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | Butyl lithium | 0.228 mole, 2.3 M, 99 ml | C(CCC)[Li]
reactant | N-methylformanilide | 0.22 mole, 29.7 g | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-difluorobenzaldehyde | 18.2 g, 58% | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
